US06235771B1
In formic acid (85.5 ml) was dissolved 5-bromo-2-ethoxybenzaldehyde (17.1 g). To the mixture was added hydroxylamine hydrochloride (7.8 g), and the mixture was refluxed for 7 hours and cooled to room temperature. Under reduced pressure, the solvent was evaporated, and the residue was washed with water and dried to give 5-bromo-2-ethoxybenzonitrile (15.8 g).

reactant | 5-bromo-2-ethoxybenzaldehyde | 17.1 g | BrC=1C=CC(=C(C=O)C1)OCC | C9H9BrO2
reactant | hydroxylamine hydrochloride | 7.8 g | Cl.NO
solvent | formic acid | 85.5 ml | C(=O)O | CH2O2
product | 5-bromo-2-ethoxybenzonitrile | 15.8 g | BrC=1C=CC(=C(C#N)C1)OCC | C9H8BrNO
